US20010037025A1
To a stirred solution 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enone (6.5 g, 23 mmol) in methanol (175 mL) at ice bath temperature was added cerium chloride heptahydrate (12.3 g, 33 mmol) and the whole stirred for 5 min. Sodium borohydride (1.3 g, 33 mmol) was then added in one portion and the reaction stirred for 15 min. Diethyl ether (15 mL) and a mixture of brine (5 mL) and dilute HCl (1 mL) was added and the organic phase recovered. The aqueous phase was extracted with diethyl ether and the combined organic layers dried over sodium sulphate and concentrated to give a residue, which was purified by flash chromatography (eluant 4 hexane:1 ethyl acetate) to give 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enol (4.1 g, 63%).

reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enone | 23 mmol, 6.5 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1=CC(CC1)=O | C20H26O
reactant | cerium chloride heptahydrate | 33 mmol, 12.3 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 33 mmol, 1.3 g | [BH4-].[Na+]
reactant | HCl | 1 mL | Cl | ClH
solvent | methanol | 175 mL | CO | CH4O
solvent | brine | 5 mL | [Cl-].[Na+].O
solvent | Diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enol | 4.1 g, 63% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1=CC(CC1)O | C20H28O
